US06353099B1
N-(Boc)-(L)-tyrosine, tert-butyl Ester
To a solution of 9.82 g (0.041 m) of (L)-tyrosine, tert-butyl ester in 150 ml of methylene chloride and 20 ml of DMF was added 5.2 g (0.04 m) of triethyl amine followed by 9.03 g (0.04 m) of ditertbutyldicarbonate. The reaction mixture was stirred for 2 hours at room temperature and was then washed with 1 N HCl (3×50 ml), NaHCO3 solution (1×50 ml) and brine (1×50 ml) and was dried over MgSO4. The mixture was filtered and concentrated in vacuo to give 13.59 g (98% yield) of a white solid.

reactant | (L)-tyrosine, tert-butyl ester | 9.82 g | N[C@@H](CC1=CC=C(C=C1)O)C(=O)OC(C)(C)C | C13H19NO3
reactant | triethyl amine | 5.2 g | C(C)N(CC)CC | C6H15N
reactant | ditertbutyldicarbonate | 9.03 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | N-(Boc)-(L)-tyrosine, tert-butyl Ester | 13.59 g, 98% yield | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)O)C(=O)OC(C)(C)C | C18H27NO5
